US07183270B2
Part A. Preparation of 6-Trifluoromethyl-quinazolin-4-ol
2-Amino-5-trifluoromethyl-benzamide (ButtPark) (1.00 g, 4.90 mmol, 1 eq.) and formic acid (3.30 mL, 87.2 mmol, 17.8 eq.) were refluxed for 2.5 hours. Cooled to rt then added water (10 mL). Stirred 15 minutes then filtered off solids which were present. The solids were dried at 110° C. for 3 hours to give 520 mg of white solids as product. LCMS detects (M+H)+=215.

reactant | 2-Amino-5-trifluoromethyl-benzamide | 4.90 mmol, 1.00 g, 1 eq. | NC1=C(C(=O)N)C=C(C=C1)C(F)(F)F | C8H7F3N2O
reactant | formic acid | 87.2 mmol, 3.30 mL, 17.8 eq. | C(=O)O | CH2O2
solvent | water | 10 mL | O | H2O
product | 6-Trifluoromethyl-quinazolin-4-ol | 520 mg | FC(C=1C=C2C(=NC=NC2=CC1)O)(F)F | C9H5F3N2O
